US05192803
A solution of 8.1 g of 55% 3-chloroperbenzoic acid in 50 ml of dichloromethane is added dropwise at 0° to +5° C. in the course of 20 minutes to a solution of 11.5 g of ethyl N-phenylthio-2-[4-(3,5-difluorophenoxy)phenoxy]ethylcarbamate in 80 ml of dichloromethane, with stirring. After the reaction mixture has been stirred for 2 hours at +20° to +22° C., it is extracted twice with a 10% sodium carbonate solution and washed to neutrality with water. The dichloromethane phase is dried over sodium sulfate, and the solvent is distilled off in vacuo. The residue is purified by chromatography on silica gel (eluent: n-hexane/diethyl ether, 3:1), which process gives ethyl N-phenylsulfinyl-2-[4-(3,5-difluorophenoxy)phenoxy]ethylcarbamate, colourless viscous oil nD20 :1.5645.

reactant | 3-chloroperbenzoic acid | 8.1 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | ethyl N-phenylthio-2-[4-(3,5-difluorophenoxy)phenoxy]ethylcarbamate | 11.5 g | C1(=CC=CC=C1)SN(C(OCC)=O)CCOC1=CC=C(C=C1)OC1=CC(=CC(=C1)F)F | C23H21F2NO4S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | ethyl N-phenylsulfinyl-2-[4-(3,5-difluorophenoxy)phenoxy]ethylcarbamate | C1(=CC=CC=C1)S(=O)N(C(OCC)=O)CCOC1=CC=C(C=C1)OC1=CC(=CC(=C1)F)F | C23H21F2NO5S
